US07687529B2
1-(3-{[tert-butyl(dimethyl)silyl]oxy}-1-phenylpropyl)-3,3-dimethyl-1,3-dihydro-2H-indol-2-one (4.0 g, 9.8 mmol) was dissolved in tetrahydrofuran (50 mL) and tetrabutyl ammonium fluoride (1.0 M in THF, 14.7 mL, 14.7 mmol) was added and the mixture was stirred for 1 hour. Reaction was quenched with saturated aqueous ammonium chloride then saturated sodium bicarbonate was added, diluted with ether, washed with water, and saturated brine. The organic layer was separated, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The crude product was purified via Isco chromatography (Redisep, silica, gradient 10-60% ethyl acetate in hexane) to afford 2.6 g (90%) racemic 1-[3-hydroxy-1-phenylpropyl]-3,3-dimethyl-1,3-dihydro-2H-indol-2-one that was resolved by chiral HPLC.

reactant | 1-(3-{[tert-butyl(dimethyl)silyl]oxy}-1-phenylpropyl)-3,3-dimethyl-1,3-dihydro-2H-indol-2-one | 9.8 mmol, 4.0 g | [Si](C)(C)(C(C)(C)C)OCCC(C1=CC=CC=C1)N1C(C(C2=CC=CC=C12)(C)C)=O | C25H35NO2Si
reactant | tetrabutyl ammonium fluoride | 14.7 mmol, 1.0 M, 14.7 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | racemic 1-[3-hydroxy-1-phenylpropyl]-3,3-dimethyl-1,3-dihydro-2H-indol-2-one | 2.6 g, 90% | OCCC(C1=CC=CC=C1)N1C(C(C2=CC=CC=C12)(C)C)=O | C19H21NO2
